US06255494B1
Preparation of 2-[4-(t-butoxycarbonylamino)phenoxymethyl]-4-methyl-1-[3-[1-(t-butoxycarbonyl)piperidin-3-yl]propyl]benzimidazole
A solution of 2-(4-aminophenoxymethyl)-4-methyl-1-[3-[1-(t-butoxycarbonyl)piperidin-3-yl]propyl]benzimidazole (160 mg, 0.33 mmol, 1.0 eq.) in a 1:1 mixture of anhydrous tetrahydrofuran and water (2 ml total) was treated wtih potassium carbonate (56 mg, 0.4 mmol, 1.2 eq.) and di-t-butyl dicarbonate (90 mg, 0.4 mmol, 1.2 eq.). The mixture was stirred at room temperature for two hours. Water (10 ml) was added to the mixture. The organic fraction was extracted with ethyl acetate (3×10 ml). The combined organic fraction was washed with water (10 ml), brine (1×10 ml), and then dried over sodium sulfate. The solvents were removed in vacuo. The title product was further purified by flash chromatography. Yield: 190 mg (>99%).

reactant | 2-(4-aminophenoxymethyl)-4-methyl-1-[3-[1-(t-butoxycarbonyl)piperidin-3-yl]propyl]benzimidazole | 0.33 mmol, 160 mg, 1.0 eq. | NC1=CC=C(OCC2=NC3=C(N2CCCC2CN(CCC2)C(=O)OC(C)(C)C)C=CC=C3C)C=C1 | C28H38N4O3
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | potassium carbonate | 0.4 mmol, 56 mg, 1.2 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | di-t-butyl dicarbonate | 0.4 mmol, 90 mg, 1.2 eq. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | Water | 10 ml | O | H2O
solvent | water | 2 ml | O | H2O
product | 2-[4-(t-butoxycarbonylamino)phenoxymethyl]-4-methyl-1-[3-[1-(t-butoxycarbonyl)piperidin-3-yl]propyl]benzimidazole | C(C)(C)(C)OC(=O)NC1=CC=C(OCC2=NC3=C(N2CCCC2CN(CCC2)C(=O)OC(C)(C)C)C=CC=C3C)C=C1 | C33H46N4O5
